US06133258
The reaction procedure of Example 11 was followed except that 909 mg (3.38 mmol) of 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 27 mg of lithium hydride and 621 mg of butyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 571 mg of 3-butyl-2,3-dihydro-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (52%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 157 mg of 2-[N-butyl-N-(4-methylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from ether) as a high polarity substance.

reactant | 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.38 mmol, 909 mg | CC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H11N3OS
reactant | lithium hydride | 27 mg | [H-].[Li+]
reactant | butyl iodide | 621 mg | C(CCC)I | C4H9I
product | 3-butyl-2,3-dihydro-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 571 mg | C(CCC)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)C | C18H19N3OS
